US06825200B1
1-(3,3,3-Trifluoropropyl)piperazine dihydrochloride
To a solution of tert-butyl 4-(3,3,3-trifluoropropyl)-1-piperazinecarboxylate (5.77 g) in ethyl acetate (13 ml) and methanol (10 ml) was added dropwise 4N hydrogen chloride in ethyl acetate (29 ml) at 0° C. The mixture was warmed to room temperature and stirred for 2 hours. The reaction mixture was diluted with ethyl acetate. The resulting precipitate was collected by filtration, washed with ethyl acetate and dried in vacuo to give the title compound (4.70 g) as a pale yellow solid.

reactant | tert-butyl 4-(3,3,3-trifluoropropyl)-1-piperazinecarboxylate | 5.77 g | FC(CCN1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C12H21F3N2O2
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 13 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 10 ml | CO | CH4O
solvent | ethyl acetate | 29 ml | C(C)(=O)OCC | C4H8O2
product | 1-(3,3,3-Trifluoropropyl)piperazine dihydrochloride | 4.70 g | Cl.Cl.FC(CCN1CCNCC1)(F)F | InChI=1S/C7H13F3N2.2ClH/c8-7(9,10)1-4-12-5-2-11-3-6-12;;/h11H,1-6H2;2*1H
